US05763599
Trichloromethyl chloroformate (0.26 ml, 2.2 mmol) in THF (5 ml, dist. over CaH2) was cooled by means of an ice bath to 0° C. A solution of 2-(4,5-dimethoxy-2-nitrophenyl)ethanol (500 mg, 2.2 mmol) and Et3 N (218 mg, 0.3 ml, 2.2 mmol, dist. over CaH2) in THF (15 ml, dist. over CaH2) was added dropwise thereto for 10 min. The ice bath was then removed and the solution was stirred further at room temperature. After being stirred for 30 min, a spatula tip of activated carbon was added to the reaction mixture, which after being stirred for another 2.5 h was filtered by suction at room temperature over Celite. The solvent and the excess reagent were removed from the filtrate by distillation in a high vacuum and 2-(4,5-dimethoxy-2-nitrophenyl)ethoxycarbonyl chloride (624 mg, 98%) was obtained as a yellow brown solid.

reactant | Trichloromethyl chloroformate | 2.2 mmol, 0.26 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 2-(4,5-dimethoxy-2-nitrophenyl)ethanol | 2.2 mmol, 500 mg | COC1=CC(=C(C=C1OC)CCO)[N+](=O)[O-] | C10H13NO5
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4,5-dimethoxy-2-nitrophenyl)ethoxycarbonyl chloride | 624 mg, 98% | COC1=CC(=C(C=C1OC)CCOC(=O)Cl)[N+](=O)[O-] | C11H12ClNO6
